US06600074B2
Preparation of 4-t-butyl-2-pentafluoroethylaniline
To a liquid mixture of 40 ml of water and 40 ml of ethyl acetate were successively added 2.2 g of 4-tert-butylaniline, 5.0 g of perfluoroethyl iodide, 3.1 g of sodium dithionite, 1.5 g of sodium hydrogen carbonate and 0.6 g of tetrabutylammonium sulfate, and the resulting mixture was stirred at room temperature for 15 hours. The organic layer was separated, then the aqueous layer was extracted with 20 ml of ethyl acetate, and the organic layer were combined and washed successively with 2N aqueous hydrochloric acid, 5% aqueous sodium carbonate solution and saturated aqueous sodium chloride solution. The organic layer was dried with magnesium sulfate, then filtered, the organic solvent was distilled off under reduced pressure and the residue was purified by column chromatography to obtain 0.7 g of the intended product. Yield: 18%

reactant | 4-tert-butylaniline | 2.2 g | C(C)(C)(C)C1=CC=C(N)C=C1 | C10H15N
reactant | perfluoroethyl iodide | 5.0 g | FC(C(F)(F)F)(F)I | C2F5I
reactant | sodium dithionite | 3.1 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | sodium hydrogen carbonate | 1.5 g | C(O)([O-])=O.[Na+]
reactant | tetrabutylammonium sulfate | 0.6 g | S(=O)(=O)([O-])[O-].C(CCC)[N+](CCCC)(CCCC)CCCC.C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 40 ml | O | H2O
product | 4-t-butyl-2-pentafluoroethylaniline | 0.7 g, Yield: 18% | C(C)(C)(C)C1=CC(=C(N)C=C1)C(C(F)(F)F)(F)F | C12H14F5N
